US04474692
N-[1-Ethoxycarbonyl-3-(3,4-dimethoxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine hydrochloride (1.1 g) is dissolved in 30 ml of methanol. To the solution is added 5 ml of 2N aqueous sodium hydroxide. After stirring for 4 hours, the reaction mixture is concentrated, and 30 ml of water is added. On adjusting the pH to about 5 with diluted hydrochloric acid, an oily substance separates, which is extracted with ethyl acetate. The extract is washed with water, dried and concentrated. Methanol (4 ml) is added to the residue, and the mixture is allowed to stand. There is obtained 60 mg of N-[1-carboxy-3-(3,4-dimethoxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine as crystals melting at 160°-165° C. with decomposition.

reactant | N-[1-Ethoxycarbonyl-3-(3,4-dimethoxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine hydrochloride | 1.1 g | Cl.C(C)OC(=O)C(CCC1=CC(=C(C=C1)OC)OC)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | N-[1-carboxy-3-(3,4-dimethoxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine | 60 mg | C(=O)(O)C(CCC1=CC(=C(C=C1)OC)OC)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | C26H32N2O7
